US04892875
To a mixture of 1-(2-pyridyl)piperazine (5 g), potassium carbonate powder (9 g) and N,N-dimethylformamide (30 ml) was added dropwise ethylene bromohydrin (5.74 g) under stirring. The mixture was stirred at room temperature for 6 hours, diluted with water (100 ml) and extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was purified by silica gel chromatography [eluent: dichloromethane-methanol (95:5)] to give 4-(2-pyridyl)-1-piperazineethanol as crystals, m.p. 82.5°-84° C. Yield 4.68 g (73.7%).

reactant | 1-(2-pyridyl)piperazine | 5 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | ethylene bromohydrin | 5.74 g | C(CO)Br | C2H5BrO
solvent | water | 100 ml | O | H2O
product | 4-(2-pyridyl)-1-piperazineethanol | N1=C(C=CC=C1)N1CCN(CC1)CCO | C11H17N3O
